US05780437
2-ethyl-4,4-dimethyl-5-(4-nitrophenyl)-2,4-dihydropyrazol-3-one
A mixture of 1.00 g (4 mmol) of 2,2-dimethyl-3-(4-nitrophenyl)-3-oxopropionic acid methyl ester (Yang, C.-Y.; Wnek, G. E., Polymer, 1992, 33, 4191-4196), 3.00 g (20 mmol) of ethylhydrazine oxalate, 8 mL of 2-methoxyethanol, and 4 mL of glacial acetic acid was stirred under nitrogen at gentle reflux for 24 hours. The cooled solution was concentrated in vacuo. The residue was partitioned between ethyl acetate and water. The ethyl acetate phase was washed with additional water and then with saturated aqueous sodium chloride solution. The organic solution was dried over magnesium sulfate, filtered, and concentrated in vacuo to give 703 mg (67%) of light yellow crystals, mp 121°-122° C.; homogeneous by TLC in 2:1 hexane-EtOAc. 500 MHz 1H NMR (CDCl3) was consistent with the assigned structure. Mass spectrum (PB-NH3 /CI): m/e=232.1 (M-Et), 265.1 (M+H).

reactant | 2,2-dimethyl-3-(4-nitrophenyl)-3-oxopropionic acid methyl ester | 4 mmol, 1.00 g | COC(C(C(=O)C1=CC=C(C=C1)[N+](=O)[O-])(C)C)=O | C12H13NO5
reactant | ethylhydrazine oxalate | 20 mmol, 3.00 g | C(C(=O)O)(=O)O.C(C)NN
reactant | 2-methoxyethanol | 8 mL | COCCO | C3H8O2
reactant | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | 2-ethyl-4,4-dimethyl-5-(4-nitrophenyl)-2,4-dihydropyrazol-3-one | C(C)N1N=C(C(C1=O)(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C13H15N3O3
